US06043366
4-(2-methyl-phenyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide (10.35 g) was dissolved in 60 ml triethyl orthoformate and stirred at 150° C. for 10 d. After cooling to 0° C, the reaction mixture was evaporated and the resulting brown oil was chromatographed on silica gel using dichloromethane:methanol 19:1 as eluent. 8-benzyl-1-(2-methyl-phenyl)-1,3,8-triazaspiro[4,5]dec-2-en-4-one (4.71 g) was obtained as a brown foam. MS: m/z=334 (M+H)+

reactant | 4-(2-methyl-phenyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide | 10.35 g | CC1=C(C=CC=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)N | C20H25N3O
reactant | triethyl orthoformate | 60 ml | C(OCC)(OCC)OCC | C7H16O3
product | 8-benzyl-1-(2-methyl-phenyl)-1,3,8-triazaspiro[4,5]dec-2-en-4-one | 4.71 g | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=C(C=CC=C2)C)=O)CC1 | C21H23N3O
